US06753423B1
C. 3-Benzyloxymethyl-3′-benzyloxymethylthymidine-5′-aldehyde
A solution of 3-benzyloxymethyl-3′-benzyloxymethylthymidine (14.5 g, 30 mmol) in DMSO (200 ml) was treated with DCC (33 g, 160 mmol) and phosphoric acid 85% (2.0 g) for 16 h. The reaction mixture was filtered and concentrated in vacuo. The resultant oil was chromatographed on silica gel (EtOAc/hexane, 7/3) to afford the product as a viscous oil, 11 g (76%). 1H NMR (CDCl3) 1.92 (s, 3H, C5-CH3), 2.20-2.52 (m, 2H, C2′H), 4.09 (m, 1H, C4′H), 4.49 (m, 1H, C3′H), 4.62 (s, 2H, NCH2O), 6.28 (t, 1H, C1′H) 7.24-7.51 (M, 11H, ArH, CH═), 9.65 (s, 1H, CHO). Anal. Calcd. for C26H28N2O7: C, 64.99; H, 5.87; N, 5.83. Found: C, 64.68; H, 5.95; N, 6.01.

reactant | 3-benzyloxymethyl-3′-benzyloxymethylthymidine | 30 mmol, 14.5 g | C(C1=CC=CC=C1)OCN1C(N([C@H]2C[C@](O)([C@@H](CO)O2)COCC2=CC=CC=C2)C=C(C1=O)C)=O | C26H30N2O7
reactant | DCC | 160 mmol, 33 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | phosphoric acid | 2.0 g | P(O)(O)(O)=O | H3O4P
solvent | DMSO | 200 ml | CS(=O)C | C2H6OS
product | 3-Benzyloxymethyl-3′-benzyloxymethylthymidine-5′-aldehyde | C(C1=CC=CC=C1)OCN1C(N([C@H]2C[C@](O)([C@@H](C(O)=O)O2)COCC2=CC=CC=C2)C=C(C1=O)C)=O | C26H28N2O8
